US08257943B2
L-Ala-L-Phe obtained in Experimental Example 6 (100 mg, 0.423 mmol) is suspended in methylene chloride (10 ml), and pyridine (10 ml) and acetic anhydride (1 ml, 11 mmol) are added to the suspension at room temperature. After stirring at room temperature for 24 hours, water is added and the resulting mixture is extracted three times with chloroform. The organic layer is washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and then the solvent is distilled away under reduced pressure to obtain N-[2-(acetylamino)propionyl]phenylalanine.

reactant | L-Ala-L-Phe | N[C@@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C12H16N2O3
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 11 mmol, 1 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(acetylamino)propionyl]phenylalanine | C(C)(=O)NC(C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C | C14H18N2O4
